US04997847
(i) Ethyl 3,3-dimethyl-5-(benzenesulphonamido)pentanoate
Benzenesulphonamide (9.6 g, 61.1 mmol) was added to a stirred solution of sodium methoxide (1.6 g, 29.6 mmol) in methanol (100 ml). The clear solution was evaporated to dryness, then dimethyl formamide (100 ml) and ethyl 5-bromo-3,3-dimethyl-pentanoate (7.0 g, 32.8 mmol) were added and the mixture was heated for eight hours at 70° C. The solution was then poured into water (600 ml), the mixture was extracted with ether and the ether phase, after being dried over sodium sulphate, was evaporated. Treatment of the solid residue with a mixture of toluene and cyclohexane (9:1) left most of the unreacted benzenesulphonamide undissolved. After filtration, the solution was evaporated and the residue was purified by chromatography on silica gel with a mixture of methylene chloride and ethanol (98:2). Yield: 4.6 g (50% of theory), oily substance, nD20 =1.5083.

reactant | Benzenesulphonamide | 61.1 mmol, 9.6 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | sodium methoxide | 29.6 mmol, 1.6 g | C[O-].[Na+]
reactant | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
reactant | ethyl 5-bromo-3,3-dimethyl-pentanoate | 32.8 mmol, 7.0 g | BrCCC(CC(=O)OCC)(C)C | C9H17BrO2
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 600 ml | O | H2O
product | Ethyl 3,3-dimethyl-5-(benzenesulphonamido)pentanoate | CC(CC(=O)OCC)(CCNS(=O)(=O)C1=CC=CC=C1)C | C15H23NO4S
